US05286747
Propionylchloride (0.28 g, 0.0030 mol) in dry ether (5 ml) was slowly added at 5° C. to a solution of (-)-cis-5-methoxy-1-methyl-2-(n-propylamino)tetralin (0.35 g, 0.0015 mol), triethylamine (0.31 g, 0.0030 mol) and dry ether (45 ml). The mixture was stirred at room temperature for 1 hour, whereupon the triethylammoniumchloride formed was filtered off and the solvent evaporated. The residue (0.40 g) dissolved in dry tetrahydrofuran (10 ml) was added to a suspension of LiAlH4 (0.80 g, 0.021 mol) in dry tetrahydrofuran (40 ml) under nitrogen. After stirring under reflux for 5 hours, the mixture was hydrolyzed, the precipitate was filtered off, and the solvent was evaporated. The residue was passed through an alumina column with ether/light petroleum (20:80) as eluant, and the amine was precipitated as the hydrochloride and recrystallized from ethanol-ether to give (-)-cis-5-methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride. (0.37 g, 79%) m.p. 161°-162° C. [α]D22 =-48.2 (c=1.1, CH3OH).

reactant | Propionylchloride | 0.0030 mol, 0.28 g | C(CC)(=O)Cl | C3H5ClO
reactant | (-)-cis-5-methoxy-1-methyl-2-(n-propylamino)tetralin | 0.0015 mol, 0.35 g | COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)NCCC | C15H23NO
reactant | triethylamine | 0.0030 mol, 0.31 g | C(C)N(CC)CC | C6H15N
reactant | triethylammoniumchloride | [Cl-].C(C)[NH+](CC)CC
reactant | LiAlH4 | 0.021 mol, 0.80 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ether | 45 ml | CCOCC | C4H10O
product | (-)-cis-5-methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride | Cl.COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCC | InChI=1S/C18H29NO.ClH/c1-5-12-19(13-6-2)17-11-10-16-15(14(17)3)8-7-9-18(16)20-4;/h7-9,14,17H,5-6,10-13H2,1-4H3;1H/t14-,17+;/m1./s1
